US07786108B2
Step 8. Preparation of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(5-cyclopentylmethyl-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine
To a solution of (S)-(3,5-bis-trifluoromethyl-benzyl)-(3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine (0.195 mmol) dichloroethane (5 mL), add cyclopentanecarbaldehyde (0.780 mmol) along with a catalytic amount of acetic acid. Add sodium triacetoxyborohydride (0.975 mmol) and stir at room temperature overnight. Quench the reaction with aqueous sodium carbonate (5 mL) and dilute with dichloromethane (5 mL). Dry the organic portion, filter, and remove the solvent under vacuum. Chromatograph the product over silica gel eluting with ethyl acetate/hexane (5-35%) to afford the title compound as a colorless foam. MS (ES+): 595.2 (M+H).

reactant | (S)-(3,5-bis-trifluoromethyl-benzyl)-(3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.195 mmol, 5 mL | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@H]2CCCNC=3C2=CC=2COCC2C3)C=C(C1)C(F)(F)F)(F)F | C23H22F6N6O
reactant | cyclopentanecarbaldehyde | 0.780 mmol | C1(CCCC1)C=O | C6H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.975 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(5-cyclopentylmethyl-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | FC(C=1C=C(CN(C=2N=NN(N2)C)[C@H]2CCCN(C=3C2=CC=2COCC2C3)CC3CCCC3)C=C(C1)C(F)(F)F)(F)F | C29H32F6N6O
